US05177087
To a solution of the 1-benzyl-4-[3-(4-fluorobenzoyl)propyl]piperidine (0.6 g) synthesized in 4) in dioxane (1 ml) was added 3 ml of pyrrolidine and the mixture was heated at 100° C. for 16 hours. Thereafter, the procedure of Example 37 was repeated to give 0.58 g of 1-benzyl-4-[3-(4-pyrrolidinobenzoyl]propyl]piperidine as colorless crystals melting at 115°-116° C.

reactant | 1-benzyl-4-[3-(4-fluorobenzoyl)propyl]piperidine | 0.6 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCC(C1=CC=C(C=C1)F)=O | C22H26FNO
reactant | pyrrolidine | 3 ml | N1CCCC1 | C4H9N
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-benzyl-4-[3-(4-pyrrolidinobenzoyl]propyl]piperidine | 0.58 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCC(C1=CC=C(C=C1)N1CCCC1)=O | C26H34N2O
